datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC[O-:10].N#CC1=CC=C([CH:21](C(=O)C2=CC=NC=C2)[H:20])C=C1>>CC[O:10][H:20].N#CC1=CC=C([CH-:21]C(=O)C2=CC=NC=C2)C=C1 10=20;20,21=21",
"CC(C)(C)c1cc(C(C)(C)C)cc([NH2+:21][H:20])c1.O=C([O-])[C@@H]1CC[C@@H](C(=O)[O-:10])[Se]1>>CC(C)(C)c1cc(C(C)(C)C)cc([NH2:21])c1.O=C([O-])[C@@H]1CC[C@@H](C(=O)[O:10][H:20])[Se]1 10=20;20,21=21",
"C[n+]1cccc2cc([S:21][H:20])ccc21.O=S(=O)([O-])CC(O)C[N:10]1CCOCC1>>C[n+]1cccc2cc([S-:21])ccc21.O=S(=O)([O-])CC(O)C[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"CCSC(C)[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=CC([N+](=O)[O-])=C2)[H:20])C=C1>>CCSC(C)[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=CC([N+](=O)[O-])=C2)C=C1 10=20;20,21=21",
"CCCCNCCCCCC[NH+:21](CCCC)[H:20].Cc1cnc2c([S-])[n:10]cnc2n1>>CCCCNCCCCCC[NH:21]CCCC.Cc1cnc2c([S-])[n+:10]([H:20])cnc2n1 10=20;20,21=21",
"Cc1cccc(/C=C/C(=O)[O-:10])c1.c1ccc2[nH+]c([O:21][H:20])cnc2c1>>Cc1cccc(/C=C/C(=O)[O:10][H:20])c1.c1ccc2[nH+]c([O-:21])cnc2c1 10=20;20,21=21",
"O=C([O-])[C@@H]1O[C@H](Oc2ccc3[nH+]c([O:21][H:20])ccc3c2)[C@@H](O)[C@H](O)[C@H]1O.c1ccc(CCC[NH2:10])nc1>>O=C([O-])[C@@H]1O[C@H](Oc2ccc3[nH+]c([O-:21])ccc3c2)[C@@H](O)[C@H](O)[C@H]1O.c1ccc(CCC[NH2+:10][H:20])nc1 10=20;20,21=21",
"CC[N:10](CC)CCNc1cc(C)nc(Nc2ccc(Cl)cc2)n1.Nc1nc(N)c2c(nc[n:21]2[H:20])n1>>CC[N+:10](CC)(CCNc1cc(C)nc(Nc2ccc(Cl)cc2)n1)[H:20].Nc1nc(N)c2c(nc[n-:21]2)n1 10=20;20,21=21",
"CCOCCn1c(CN2CCC[N:10](CCCCn3cc(C(=O)[O-])cn3)CC2)nc2ccccc21.C[n+]1ccc2cc([O:21][H:20])ccc2c1>>CCOCCn1c(CN2CCC[N+:10](CCCCn3cc(C(=O)[O-])cn3)([H:20])CC2)nc2ccccc21.C[n+]1ccc2cc([O-:21])ccc2c1 10=20;20,21=21",
"CC[NH:10]CC[Se-].[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CC[NH+:10](CC[Se-])[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CC(=N[N+](C)(C)C)[O:21][H:20].COc1cc2c(cc1OC)C(=O)Cc1ccc3c(c1C[N:10](C)CC2)OCO3>>CC(=N[N+](C)(C)C)[O-:21].COc1cc2c(cc1OC)C(=O)Cc1ccc3c(c1C[N+:10](C)([H:20])CC2)OCO3 10=20;20,21=21",
"Cc1cc(C)[n-:10]n1.Cc1nnc([N:21](S(=O)(=O)c2ccc(O)cc2)[H:20])s1>>Cc1cc(C)[n:10]([H:20])n1.Cc1nnc([N-:21]S(=O)(=O)c2ccc(O)cc2)s1 10=20;20,21=21",
"Cc1cc([O-])ccc1[O-:10].Cn1n[n+:21]([H:20])cc1Nc1ccccc1>>Cc1cc([O-])ccc1[O:10][H:20].Cn1n[n:21]cc1Nc1ccccc1 10=20;20,21=21",
"CO[n+]1ccccc1[NH-:10].c1ccc2c(c1)cc1ccccc1[n+]2[O:21][H:20]>>CO[n+]1ccccc1[NH:10][H:20].c1ccc2c(c1)cc1ccccc1[n+]2[O-:21] 10=20;20,21=21",
"CCNc1nc(NCC)[n+:21]([H:20])c(NCC)n1.O=[N+]([O-])c1cccc2c1c(NCCO)c1ccccc1[n:10]2>>CCNc1nc(NCC)[n:21]c(NCC)n1.O=[N+]([O-])c1cccc2c1c(NCCO)c1ccccc1[n+:10]2[H:20] 10=20;20,21=21",
"O=C([O-])[C@H]1CCCC[C@@H]1[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])[C@H]1CCCC[C@@H]1[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[C@H]1C[NH:10][C@@H](C)CN1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>C[C@H]1C[NH+:10]([H:20])[C@@H](C)CN1.[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"C=C(C)[C@H]1C[NH2+][C@H](C(=O)[O:21][H:20])[C@H]1CC(=O)O.Cc1ccc(OC(=O)CCC[N:10](C)C)cc1>>C=C(C)[C@H]1C[NH2+][C@H](C(=O)[O-:21])[C@H]1CC(=O)O.Cc1ccc(OC(=O)CCC[N+:10](C)(C)[H:20])cc1 10=20;20,21=21",
"Nc1ccc(C(=O)[O-:10])cc1.O=C(c1ccsc1)[O:21][H:20]>>Nc1ccc(C(=O)[O:10][H:20])cc1.O=C(c1ccsc1)[O-:21] 10=20;20,21=21",
"CC1CN(C)CC[N+:21]1(C)[H:20].c1ccc(-c2cc([O-:10])on2)cc1>>CC1CN(C)CC[N:21]1C.c1ccc(-c2cc([O:10][H:20])on2)cc1 10=20;20,21=21",
"CCCC[NH:10]CCC(=O)[O-].[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CCCC[NH+:10](CCC(=O)[O-])[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"Cc1cccc(C)c1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cccc(C)c1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC[N+:21](CC)(Cc1ccccc1O)[H:20].CN(C)CC[N:10](C)CCN(C)C>>CC[N:21](CC)Cc1ccccc1O.CN(C)CC[N+:10](C)(CCN(C)C)[H:20] 10=20;20,21=21",
"CCCC[N+:21](CCCC)(CCCC)[H:20].CCc1cc(Cl)c([O-:10])c(C(=O)NCC2CCC[NH+]2CC)c1OC>>CCCC[N:21](CCCC)CCCC.CCc1cc(Cl)c([O:10][H:20])c(C(=O)NCC2CCC[NH+]2CC)c1OC 10=20;20,21=21",
"CCC(=O)[O:21][H:20].CN(C)c1cccc[n+]1[O-:10]>>CCC(=O)[O-:21].CN(C)c1cccc[n+]1[O:10][H:20] 10=20;20,21=21",
"Cc1ccc(S(=O)(=O)[N-:10]CCC(=[NH2+])N(C)C)cc1.Nc1nnn[n:21]1[H:20]>>Cc1ccc(S(=O)(=O)[N:10](CCC(=[NH2+])N(C)C)[H:20])cc1.Nc1nnn[n-:21]1 10=20;20,21=21",
"C/C(N=O)=N\[O-:10].CCCC[NH+:21](CCCC)[H:20]>>C/C(N=O)=N\[O:10][H:20].CCCC[NH:21]CCCC 10=20;20,21=21",
"C[NH+](C)Cc1cccc([O-:10])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[NH+](C)Cc1cccc([O:10][H:20])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(C(F)(F)F)C=C2)[H:20])=C1.[OH-:10]>>C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(C(F)(F)F)C=C2)=C1.[OH:10][H:20] 10=20;20,21=21",
"N#CCCC(=O)[O:21][H:20].O=Cc1c(Cl)cccc1[O-:10]>>N#CCCC(=O)[O-:21].O=Cc1c(Cl)cccc1[O:10][H:20] 10=20;20,21=21",
"Cn1c(CCl)[n:10]c2c(O)ccc(O)c21.c1ccc(-c2ccc3n(cc(C[NH+]4CCOCC4)[n+:21]3[H:20])n2)cc1>>Cn1c(CCl)[n+:10]([H:20])c2c(O)ccc(O)c21.c1ccc(-c2ccc3n(cc(C[NH+]4CCOCC4)[n:21]3)n2)cc1 10=20;20,21=21",
"O=C(c1ccccc1)[S:21][H:20].O=C1O[C@@H]([C@H](O)[C@@H](O)[C@@H](O)CO)C([O-:10])=C1O>>O=C(c1ccccc1)[S-:21].O=C1O[C@@H]([C@H](O)[C@@H](O)[C@@H](O)CO)C([O:10][H:20])=C1O 10=20;20,21=21",
